### PR TITLE
unprocessed output

### PR DESCRIPTION
**Pull request by kckennylau**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Ring/Nat.lean [hunk 1]
```diff
@@ -23,7 +23,7 @@ lemma even_sum_iff_even_card_odd {s : Finset ι} (f : ι → ℕ) :
   rw [← Finset.sum_filter_add_sum_filter_not _ (fun x ↦ Even (f x)), Nat.even_add]
   simp only [Finset.mem_filter, and_imp, imp_self, implies_true, Finset.even_sum, true_iff]
   rw [Nat.even_iff, Finset.sum_nat_mod, Finset.sum_filter]
-  simp +contextual only [Nat.not_even_iff_odd, Nat.odd_iff.mp]
+  simp only [Nat.not_even_iff_odd, Nat.odd_iff.mp]
```
Comment (kckennylau) [inline Mathlib/Algebra/BigOperators/Ring/Nat.lean]:
```suggestion
  simp +contextual only [Nat.not_even_iff_odd, Nat.odd_iff.mp]
```

File: Mathlib/Algebra/Category/CoalgCat/Basic.lean [hunk 2]
```diff
@@ -83,7 +83,7 @@ abbrev ofHom {X Y : Type v} [AddCommGroup X] [Module R X] [AddCommGroup Y] [Modu
   ConcreteCategory.ofHom f
 
 lemma Hom.toCoalgHom_injective (V W : CoalgCat.{v} R) :
-    Function.Injective (Hom.toCoalgHom' : Hom V W → _) :=
+    Function.Injective (toCoalgHom' : Hom V W → _) :=
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/CoalgCat/Basic.lean]:
```suggestion
    Function.Injective (Hom.toCoalgHom' : Hom V W → _) :=
```

File: Mathlib/Algebra/Category/Grp/Basic.lean [hunk 3]
```diff
@@ -217,7 +217,7 @@ lemma ofHom_injective {X Y : Type u} [Group X] [Group Y] :
   apply ConcreteCategory.congr_hom h
 
 /-- The forgetful functor from groups to monoids is fully faithful. -/
-@[to_additive fullyFaihtfulForget₂ToAddMonCat
+@[to_additive fullyFaithfulForget₂ToAddMonCat
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Grp/Basic.lean]:
```suggestion
@[to_additive fullyFaihtfulForget₂ToAddMonCat
```

File: Mathlib/Algebra/Category/Grp/Basic.lean [hunk 4]
```diff
@@ -427,7 +427,7 @@ instance hasForgetToGroup : HasForget₂ CommGrp Grp where
 instance : Coe CommGrp.{u} Grp.{u} where coe := (forget₂ CommGrp Grp).obj
 
 /-- The forgetful functor from commutative groups to groups is fully faithful. -/
-@[to_additive fullyFaihtfulForget₂ToAddGrp
+@[to_additive fullyFaithfulForget₂ToAddGrp
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Grp/Basic.lean]:
```suggestion
@[to_additive fullyFaihtfulForget₂ToAddGrp
```

File: Mathlib/Algebra/Category/Grp/LeftExactFunctor.lean [hunk 5]
```diff
@@ -95,7 +95,7 @@ noncomputable def unitIso : 𝟭 (C ⥤ₗ AddCommGrp) ≅
       (CommGrp.toAddCommGrp.mapIso (commGrpTypeEquivalenceCommGrp.counitIso.app
         (AddCommGrp.toCommGrp.obj (F.obj.obj X)))).symm ≪≫
       CommGrp.toAddCommGrp.mapIso
-        (CommGrpTypeEquivalenceCommGrp.functor.mapIso (unitIsoAux F.obj X)))))
+        (commGrpTypeEquivalenceCommGrp.functor.mapIso (unitIsoAux F.obj X)))))
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Grp/LeftExactFunctor.lean]:
```suggestion
        (CommGrpTypeEquivalenceCommGrp.functor.mapIso (unitIsoAux F.obj X)))))
```

File: Mathlib/Algebra/Category/Grp/Preadditive.lean [hunk 6]
```diff
@@ -50,7 +50,7 @@ instance : Sub (M ⟶ N) where
 instance : SMul ℤ (M ⟶ N) where
   smul n f := ofHom (n • f.hom)
 
-@[simp] lemma hom_zsmul (n : ℕ) (f : M ⟶ N) : (n • f).hom = n • f.hom := rfl
+@[simp] lemma hom_zsmul (n : ℤ) (f : M ⟶ N) : (n • f).hom = n • f.hom := rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Grp/Preadditive.lean]:
```suggestion
@[simp] lemma hom_zsmul (n : ℕ) (f : M ⟶ N) : (n • f).hom = n • f.hom := rfl
```

File: Mathlib/Algebra/Category/ModuleCat/Basic.lean [hunk 7]
```diff
@@ -347,14 +347,14 @@ instance : Sub (M ⟶ N) where
 instance : SMul ℤ (M ⟶ N) where
   smul n f := ⟨n • f.hom⟩
 
-@[simp] lemma hom_zsmul (n : ℕ) (f : M ⟶ N) : (n • f).hom = n • f.hom := rfl
+@[simp] lemma hom_zsmul (n : ℤ) (f : M ⟶ N) : (n • f).hom = n • f.hom := rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Basic.lean]:
```suggestion
@[simp] lemma hom_zsmul (n : ℕ) (f : M ⟶ N) : (n • f).hom = n • f.hom := rfl
```

File: Mathlib/Algebra/Category/ModuleCat/Basic.lean [hunk 8]
```diff
@@ -347,14 +347,14 @@ instance : Sub (M ⟶ N) where
...
 
 instance : AddCommGroup (M ⟶ N) :=
   Function.Injective.addCommGroup (Hom.hom) hom_injective
     rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl) (fun _ _ => rfl) (fun _ _ => rfl)
 
 @[simp] lemma hom_sum {ι : Type*} (f : ι → (M ⟶ N)) (s : Finset ι) :
-    (∑ i ∈ s, f i).hom = ∑ i ∈ s, (f i).hom :=
+    (∑ i in s, f i).hom = ∑ i in s, (f i).hom :=
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Basic.lean]:
```suggestion
    (∑ i ∈ s, f i).hom = ∑ i ∈ s, (f i).hom :=
```

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 9]
```diff
@@ -828,7 +828,7 @@ def extendRestrictScalarsAdj {R : Type u₁} {S : Type u₂} [CommRing R] [CommR
         | tmul =>
           rw [ExtendRestrictScalarsAdj.homEquiv_symm_apply]
           dsimp
-          -- This used to be `rw`, but we need `erw` after https://github.com/leanprover/lean4/pull/2644
+          -- This used to be `rw`, but we need `erw` after https://github.com/leanprover-community/mathlib4/pull/2644
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean]:
```suggestion
          -- This used to be `rw`, but we need `erw` after https://github.com/leanprover/lean4/pull/2644
```

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 10]
```diff
@@ -837,7 +837,7 @@ lemma extendRestrictScalarsAdj_homEquiv_apply
     {R : Type u₁} {S : Type u₂} [CommRing R] [CommRing S]
     {f : R →+* S} {M : ModuleCat.{max v u₂} R} {N : ModuleCat S}
     (φ : (extendScalars f).obj M ⟶ N) (m : M) :
-    (extendRestrictScalarsAdj f).homEquiv _ _ φ m = φ ((1 : S) ⊗ₜ m) :=
+    (extendRestrictScalarsAdj f).homEquiv _ _ φ m = φ ((1 : S) ⊗ₜ[R,f] m) :=
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean]:
```suggestion
    (extendRestrictScalarsAdj f).homEquiv _ _ φ m = φ ((1 : S) ⊗ₜ m) :=
```

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Symmetric.lean [hunk 11]
```diff
@@ -73,7 +73,7 @@ instance symmetricCategory : SymmetricCategory (ModuleCat.{u} R) where
   hexagon_forward := hexagon_forward
   hexagon_reverse := hexagon_reverse
   -- Porting note: this proof was automatic in Lean3
-  -- now `aesop` is applying `ModuleCat.ext` in favour of `TensorProduct.ext`.
+  -- now `aesop` is applying `ModuleCat.ext` in favor of `TensorProduct.ext`.
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Symmetric.lean]:
```suggestion
  -- now `aesop` is applying `ModuleCat.ext` in favour of `TensorProduct.ext`.
```

File: Mathlib/Algebra/Category/ModuleCat/Products.lean [hunk 12]
```diff
@@ -87,7 +87,7 @@ def coproductCoconeIsColimit : IsColimit (coproductCocone Z) where
     refine DirectSum.linearMap_ext _ fun i ↦ ?_
     ext x
     simpa only [LinearMap.coe_comp, Function.comp_apply, hom_ofHom, toModule_lof] using
-      congr($(h ⟨i⟩) x)
+      congr (h ⟨i⟩) x
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Products.lean]:
```suggestion
      congr($(h ⟨i⟩) x)
```
